US08431596B2
(4-Bromo-phenyl)-(2-pyrrolidin-1-yl-propyl)-amine
A 1M solution of BH3 in tetrahydrofuran (10 ml, 10 mmol) was added dropwise to N-(4-bromo-phenyl)-2-pyrrolidin-1-yl-propionamide (0.44 g, 1.48 mmol) and the solution was stirred overnight at reflux then subsequently hydrolysed by slow addition of excess of methanol and refluxing for a further 2 hours. The reaction mixture was loaded onto an SCX cartridge, which was washed with methanol and the product subsequently eluted with 2M ammonia in methanol. Removal of all solvents under rotary evaporation gave the desired product. Yield: 0.04 g, 10%. LCMS method: 2, RT: 3.07 min; MI: 283-285 [M+1].

reactant | tetrahydrofuran | 10 mmol, 10 ml | O1CCCC1 | C4H8O
reactant | N-(4-bromo-phenyl)-2-pyrrolidin-1-yl-propionamide | 1.48 mmol, 0.44 g | BrC1=CC=C(C=C1)NC(C(C)N1CCCC1)=O | C13H17BrN2O
solvent | methanol | CO | CH4O
product | (4-Bromo-phenyl)-(2-pyrrolidin-1-yl-propyl)-amine | BrC1=CC=C(C=C1)NCC(C)N1CCCC1 | C13H19BrN2
